US09193720B2
The Pd(Ph3P)4 (61.8 mg, 0.053 mmol) was added to a nitrogen purged and degassed solution of (2S)-isopropyl 2-(5-bromo-4-(3-cyclopropylpyrrolidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (125 mg, 0.27 mmol), (4-(4-fluorophenethoxy)phenyl)boronic acid (77 mg, 0.29 mmol), and potassium phosphate tribasic (397 mg, 1.9 mmol) in 1,4-dioxane (3.5 mL) and water (0.9 mL). The reaction mixture was stirred in a screw-capped pressure vessel for 4 h at 90° C., cooled, diluted with EtOAc, and the organic layer was washed with brine and dried (Na2CO3). The crude product was charged (DCM) to a 24 g ISCO silica gel cartridge and gradient elution (5-65% EtOAc/hexanes) using an Isolera chromatography station gave (2S)-isopropyl 2-(tert-butoxy)-2-(4-(3-cyclopropylpyrrolidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate 80 mg (49.6%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 7.39-7.36 (m, 2H), 7.21-7.20 (m, 1H), 7.15-7.12 (m, 2H), 7.03-6.94 (m, 3H), 5.77/5.75 (s, 1H), 4.96-4.91 (m, 1H), 4.21 (t, J=6.6 Hz, 2H) 3.17-3.13/3.01-2.97 (m, 1H), 3.05 (t, J=6.6 Hz, 2H), 2.84-2.74 (m, 2H), 2.70-2.67/2.63-2.60 (m, 1H), 2.42/2.41 (s, 3H), 2.07/2.05 (s, 3H), 1.71-1.64 (m, 1H), 1.42-1.22/1.03-0.097 (m, 2H), 1.19-1.17 (m, 3H), 1.14-1.10 (m, 12H), 0.52-0.47 (m, 1H), 0.32-0.23 (m, 2H), −0.30-0.15 (m, 2H). UPLC (M+H)=603.5.

reactant | (2S)-isopropyl 2-(5-bromo-4-(3-cyclopropylpyrrolidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.27 mmol, 125 mg | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)OC(C)(C)C)N1CC(CC1)C1CC1 | C23H35BrN2O3
reactant | (4-(4-fluorophenethoxy)phenyl)boronic acid | 0.29 mmol, 77 mg | FC1=CC=C(CCOC2=CC=C(C=C2)B(O)O)C=C1 | C14H14BFO3
reactant | potassium phosphate tribasic | 1.9 mmol, 397 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 3.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.9 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(Ph3P)4 | 0.053 mmol, 61.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2S)-isopropyl 2-(tert-butoxy)-2-(4-(3-cyclopropylpyrrolidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 80 mg, 49.6% | C(C)(C)(C)O[C@H](C(=O)OC(C)C)C=1C(=NC(=C(C1N1CC(CC1)C1CC1)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C37H47FN2O4
